US07435735B2
Step 3: 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-methanesulfonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A cold (0° C.) solution of 2-(3-chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-N-methanesulfonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione (90 mg, 0.15 mmol) and trifluoroacetic acid (2 mL) in anhydrous dichloromethane (3 mL) was stirred for 3 hours. The product mixture was concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 20% methanol in ethyl acetate. Collection and concentration of appropriate fractions provided the titled compound.

reactant | 2-(3-chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-N-methanesulfonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | 0.15 mmol, 90 mg | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)N(S(=O)(=O)C)C(=O)OC(C)(C)C)OC)=O)C=CC1F | C25H28ClFN4O7S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-methanesulfonyl-amino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)NS(=O)(=O)C)OC)=O)C=CC1F | C20H20ClFN4O5S
